US08440651B2
4-(2-(5-fluoro-1H-indol-4-yl)-6-((3-(tetrahydro-2H-pyran-4-yl)azetidin-1-yl)methyl)pyrido[3,2-d]pyrimidin-4-yl)morpholine 111
Crude 4-(2-chloro-6-((3-(tetrahydro-2H-pyran-4-yl)azetidin-1-yl)methyl)pyrido[3,2-d]pyrimidin-4-yl)morpholine (0.1 g) was reacted with 1-(tert-butyldimethylsilyl)-5-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole via General Procedure A to produce 49 mg of 111 following reverse phase HPLC purification.

reactant | 4-(2-chloro-6-((3-(tetrahydro-2H-pyran-4-yl)azetidin-1-yl)methyl)pyrido[3,2-d]pyrimidin-4-yl)morpholine | 0.1 g | ClC=1N=C(C2=C(N1)C=CC(=N2)CN2CC(C2)C2CCOCC2)N2CCOCC2 | C20H26ClN5O2
reactant | 1-(tert-butyldimethylsilyl)-5-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | [Si](C)(C)(C(C)(C)C)N1C=CC2=C(C(=CC=C12)F)B1OC(C(O1)(C)C)(C)C | C20H31BFNO2Si
product | 4-(2-(5-fluoro-1H-indol-4-yl)-6-((3-(tetrahydro-2H-pyran-4-yl)azetidin-1-yl)methyl)pyrido[3,2-d]pyrimidin-4-yl)morpholine | FC=1C(=C2C=CNC2=CC1)C=1N=C(C2=C(N1)C=CC(=N2)CN2CC(C2)C2CCOCC2)N2CCOCC2 | C28H31FN6O2
